US06040270
To a solution of 5.3 g (53.3 mmol) of sodium acetate mixed with about 100 ml of water was added under ice cooling 6.6 g (24.3 mmol) of 1,1-dibromo-3,3,3-trifluoroacetone, and the mixture was stirred at 70° C. for 20 minutes. The reaction mixture was cooled to room temperature, to which a solution of 5.8 g (21.5 mmol) of 2-fluoro-4-chloro-5-isopropoxyphenylhydrazine dissolved in about 20 ml of diethyl ether was added, and the mixture was stirred at room temperature for 1 hour. The ether layer was separated and then concentrated. About 60 ml of tetrahydrofuran (hereinafter referred to as THF) was added to the residue, to which 8.3 g (23.0 mmol) of (carbethoxyethylidene)triphenylphosphorane was added, and the mixture was heated under reflux for 2 hours. The THF was distilled out under reduced pressure, and the residue was subjected to silica gel column chromatography, which afforded 3.8 g (10.5 mmol) of 2-[2-fluoro-4-chloro-5-isopropoxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one.

reactant | sodium acetate | 53.3 mmol, 5.3 g | C(C)(=O)[O-].[Na+]
reactant | 1,1-dibromo-3,3,3-trifluoroacetone | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | 2-fluoro-4-chloro-5-isopropoxyphenylhydrazine | 21.5 mmol, 5.8 g | FC1=C(C=C(C(=C1)Cl)OC(C)C)NN | C9H12ClFN2O
reactant | (carbethoxyethylidene)triphenylphosphorane | 23.0 mmol, 8.3 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | diethyl ether | about 20 ml | C(C)OCC | C4H10O
solvent | water | about 100 ml | O | H2O
product | 2-[2-fluoro-4-chloro-5-isopropoxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one | 10.5 mmol, 3.8 g | FC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=CC(=C(C1=O)C)C(F)(F)F | C15H13ClF4N2O2
